US04994486
Step 3: 1-Aminomethyl-1,5-dihydroxy-6-methoxy-3-phenyl-1,2,3,4-tetrahydronaphthalene
To a suspension of 5-hydroxy-6-methoxy-3-phenyl-1,2,3,4-tetrahydro-1-naphthalenone (1.13 g, 4.2 mmol), from Step 2, in 8 mL of anhydrous acetonitrile, was added 2.4 mL (18 mmol) of trimethylsilylcyanide and a catalytic amount of zinc iodide. The reaction mixture was heated at reflux for 4 h and then cooled and concentrated. The residue was kept overnight at 0° C. under nitrogen atmosphere and then dissolved in 16 mL of anhydrous THF. The THF solution was added dropwise to a suspension of 0.77 g (20 mmol) of lithium aluminum hydride (LAH) in 8 mL of THF at 0° C. under a nitrogen atmosphere. The mixture was allowed to warm to ambient temperature and then was heated at reflux for 1 h, allowed to cool to ambient temperature and was stirred at ambient temperature for 2 h. The reaction was quenched by the sequential addition of 0.8 mL of water, 0.8 mL of 15% aqueous sodium hydroxide solution and 2.8 mL of water. Anhydrous magnesium sulfate was added to the mixture and the suspension was diluted with 50 mL of methylene chloride and filtered. The filter cake was washed with 200 mL of methylene chloride and 300 mL of ethyl acetate and discarded. The combined filtrates were evaporated to give 0.95 g (75.4% yield) of the title compound. This product was taken on to the next step without purification.

reactant | 5-hydroxy-6-methoxy-3-phenyl-1,2,3,4-tetrahydro-1-naphthalenone | 4.2 mmol, 1.13 g | OC1=C2CC(CC(C2=CC=C1OC)=O)C1=CC=CC=C1 | C17H16O3
reactant | trimethylsilylcyanide | 18 mmol, 2.4 mL | C[Si](C)(C)C#N | C4H9NSi
reactant | lithium aluminum hydride | 20 mmol, 0.77 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | acetonitrile | 8 mL | C(C)#N | C2H3N
solvent | THF | 8 mL | C1CCOC1 | C4H8O
catalyst | zinc iodide | [I-].[Zn+2].[I-]
product | 1-Aminomethyl-1,5-dihydroxy-6-methoxy-3-phenyl-1,2,3,4-tetrahydronaphthalene | 0.95 g, 75.4% yield | NCC1(CC(CC2=C(C(=CC=C12)OC)O)C1=CC=CC=C1)O | C18H21NO3
